US04179298
Preparation of Starting Material 3,3-bis(bromomethyl)-2-azetidinone
A 22.4 g (0.067 mole) sample of the 1-bromo-3,3-bis(bromomethyl)-2-azetidinone was dissolved in 450 ml carbon tetrachloride. The insoluble residue (2.0 g) was discarded. A 7 ml (6.07 g, 0.067 mole) portion of toluene was added to the stirred solution. The reaction mixture was irradiated by a 275 watt General Electric Sunlamp and allowed to reflux for one hour. The reaction mixture was decanted hot from a small amount of residue on the stirrer and flask wall and then cooled in ice. White crystals were collected on a filter and dried in vacuo to yield 12.1 g of product. Mother liquor with a few seed crystals was kept cold overnight to yield a second crop of 1.0 g. Total yield of 13.1 g or 76.6% of 3,3-bis(bromomethyl)-2-azetidinone was recovered.

reactant | 1-bromo-3,3-bis(bromomethyl)-2-azetidinone | BrN1C(C(C1)(CBr)CBr)=O | C5H6Br3NO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | carbon tetrachloride | 450 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3,3-bis(bromomethyl)-2-azetidinone | 12.1 g | BrCC1(C(NC1)=O)CBr | C5H7Br2NO
